Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Latex, Natural Rubber
 
Attending: ___.
 
Chief Complaint:
Increased wound drainage
 
Major Surgical or Invasive Procedure:
___: Debridement right calcaneal wound of skin, 
subcutaneous tissue and bone (Plastic surgery)
___: Angiogram of right lower extremity
___: Right BK popliteal to plantar bypass
___: Bone washout and debridement (Orthopedics)

 
History of Present Illness:
___ yo M T1DM with right heel fracture complicated by surgical 
site infection and chronic open wound presents due to ___ 
concern of wound infection. Patient had right heel fracture on 
___ which has been complicated by site infection requiring 
___ weeks of IV antibiotics until ___ and has been on 
ciprofloxacin since then. He was at ___ inpatient on 
___ and was discharged to ___ for a total of 
2 months. He has home health aides three times per week for 
dressing changes and wound checks. On day of admission and two 
days prior, nurses noted there was drainage from one of the open 
wounds. She noticed staining of his sock, malodorous discharge, 
increased slough, and a new pinkish tone to skin. She reported 
this to orthopedics Dr. ___ requested ___ evaluation 
and bloodwork. Patient was scheduled for angiography on ___ 
to evaluate for PAD. His FSBGs have been <200 at home and he has 
been 50% weight bearing on right and has not been doing much 
activity. Wound has pain ___ but this has not changed recently 
and is always worst with dressing changes.  
Vitals ___ the ___: T 98.6, HR 100, BP 153/80, RR 16, SpO2 100% on 
RA.  
Labs notable for: WBC 7.2 (73.9%N), lactate 1.5.  
Patient given: 1gm vancomycin and 50mg trazodone.  
Vitals prior to transfer: 98.5, 94, 147/77, 16, 97% on RA.  
On the floor, pt. reports feeling well with only mild heel 
discomfort. He is dissapointed to be ___ the hospital again.  
ROS: Per HPI. ___ addition, neuropathy ___ feet bilaterally. URI 1 
week ago completely resolved. Chronic left eye blindness. Edema 
___ right foot unchanged since surgery. No fever/chills, 
appetite/weight changes, cough/dyspnea/CP/palpitations, 
nausea/vomiting, diarrhea/constipation, urinary symptoms, or 
FND.
 
Past Medical History:
T1DM on insulin pump complicated by retinopathy and neuropathy  
Left retinal detachment secondary to diabetic retinopathy
?TIA ___ ___
Right calcaneal fracture s/p repair  
Chronic right calcaneal heal wounds  
Anxiety
 
Social History:
___
Family History:
Father died of prostate cancer. Mother with dementia. Sister DM 
and many family members with DM. Son had CF and passed away.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - 98.0, 107, ___, 97% on RA, FSG 281  
GENERAL: NAD, pleasant, comfortable, A and Ox3  
HEENT: MMDry  
NECK: supple  
CARDIAC: regular, tachy, no murmurs  
LUNG: CTAB, breathing comfortably without use of accessory 
muscles  
ABDOMEN: nondistended, +BS, nontender ___ all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: three wounds on right heel with largest wound open 
to the bone, two wounds with mild erythema and drainage, and 
sloughed skin; no extending erythema or warmth; right leg 1+ 
pitting edema to mid-tibia  

DISCHARGE PHYSICAL EXAM:

 
Pertinent Results:
ADMISSION LABS
==============
___ 06:27PM   WBC-7.2 RBC-3.84* HGB-11.5* HCT-33.5* MCV-87 
MCH-30.0 MCHC-34.5 RDW-14.1
___ 06:27PM   NEUTS-73.9* LYMPHS-17.2* MONOS-6.0 EOS-2.7 
BASOS-0.3
___ 06:27PM   PLT COUNT-269
___ 06:27PM   CRP-11.7*
___ 06:27PM   GLUCOSE-187* UREA N-30* CREAT-1.1 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-27 ANION GAP-16
___ 06:48PM   LACTATE-1.5

DISCHARGE LABS
==============

PERTINENT LABS
==============
___ 05:21AM BLOOD %HbA1c-6.7* eAG-146*
___ 06:27PM BLOOD CRP-11.7*
___ 04:32PM BLOOD CK(CPK)-41*

MICROBIOLOGY
============
___ 11:45 am TISSUE      LATERAL CALCANEOUS. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------     2 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


================================================================
___ 11:45 am TISSUE      SINUS TRACT LATERAL CALCANEOUS. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


================================================================
___ 11:45 am TISSUE      BONE MEDIAL . 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


================================================================
___ 11:45 am TISSUE      RIGHT HEEL. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED.

================================================================
___ 11:45 am TISSUE      DEEP RIGHT HEEL. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


================================================================
___ 8:24 am TISSUE      RIGHT HEEL TISSUE #1. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   TISSUE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED BELOW, THEY ARE NOT 
PRESENT ___
         this culture.. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


================================================================
___ 8:24 am TISSUE      RIGHT HEEL # 2. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   TISSUE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # 40___ ___. 
      ENTEROCOCCUS SP..    RARE GROWTH. 
         Daptomycin SENSITIVITIES REQUESTED BY ___ ___ 
___. 
         Daptomycin 2MCG/ML Sensitivity testing performed by 
Etest. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------  =>32 R
DAPTOMYCIN------------       S
LINEZOLID-------------     2 S
PENICILLIN G----------  =>64 R
VANCOMYCIN------------  =>32 R

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


RADIOLOGY
=========
Radiology ReportVEN DUP EXTEXT BIL (MAP/DVT)Study Date of 
___ 2:24 ___

FINDINGS: 
 
Bilateral lower extremity has saphenous vein mapping was 
performed.
 
Right:
Because of of lower leg bandage at the small saphenous and 
lowest portion of the greater saphenous were not imaged.  The 
greater saphenous vein from upper calf to the knee he measures 
2.7, 3.2, 3.2 mm.  The knee to groin diameters are 3.9, 4.3, 
4.3, 4.6, 3.5 mm.
 
Left:
The left greater saphenous vein is patent with small diameters 
below the knee and an area of thickening ___ the calf. These 
diameters range from 1.1- 2.4 mm. The need to groin diameters 
with the vein quality is better are 3.2, 3.6, 3.7, 3.8 mm. The 
small saphenous vein on the left is of small diameter and has 
vein wall calcifications making it not usable for conduit.

================================================================
Radiology ReportCHEST PORT. LINE PLACEMENTStudy Date of 
___ 2:59 ___

REASON FOR THIS EXAMINATION:
   47cm left SL Power PICC ___ Basilic ___ ___

 
IMPRESSION:  
1. Left PICC tip within deep right atrium. Recommend withdrawing 
4 cm for
better positioning.
2. Hypoinflated lungs with bibasilar atelectasis.

PATHOLOGY
=========
SURGICAL PATHOLOGY REPORT - Final  Date Specimen(s) Received: 
___ 
1. Bone, medial calcaneus right foot, debridement:
- Acute osteomyelitis.
2. Bone and soft tissue, lateral calcaneus right foot, 
debridement:
- Fibroconnective tissue with acute inflammation, granulation 
tissue formation, and inflammatory fibrinous exudate.
- Scant fragments of bone.
3. Bone, post-debridement calcaneus right foot, excision:
- Acute osteomyelitis.
- Fibroconnective tissue with acute and chronic inflammation and 
degenerative changes.
 
Brief Hospital Course:
Mr. ___ is a ___ with T1DM and chronic non-healing right foot 
wounds presented with increased drainage from right heel wound, 
concerning for wound infection and osteomyelitis with exposed 
bone. He was initially admitted to the medical service, then 
transferred to the VICU following a debridement on ___ and 
angiogram on ___.

# Osteomyelitis of Right Heel
Presumed osteomyelitis initially given exposed bone with 
drainage on physical exam. Patient was take to the OR on ___ by 
Plastics Surgery for debridement with tissues sent for biopsy 
and pathology. Microbiology eventually showed growth of MRSA. He 
was started on vancomycin, cefepime, and metronidazole after for 
empiric treatment of a diabetic foot wound ___ preparation for a 
bypass procedure. He was subsequently narrowed to vancomycin and 
PO ciprofloxacin for a planned ___y ID. Repeat bone 
cultures taken from his washout and debridement on ___ grew 
VRE, so his vancomycin was discontinued and switched to 
daptomycin. A baseline CK level was checked ___ preparation for 
weekly monitoring. 

#Peripheral vascular disease
___ addition, patient had been previously planned for an 
angiogram on ___, which was performed. Given his distal disease, 
it was felt he would benefit from a bypass, so vein mapping was 
performed, and he underwent a below-knee popliteal to plantar 
artery bypass on ___. He was then transferred to the VICU 
where he stayed for the remainder of his hospitalization. He was 
started on plavix post-operatively on POD#1.

#Right heel wound
Plastic surgery was consulted for his right heel wound, which 
was debrided on ___, and OR planning was started for a 
coverage procedure following revascularization. His initial bone 
biopsies returned positive for MRSA, so he was taken back to the 
OR on ___ with Orthopedics for further calcaneal I&D.

#Delirium post-op
Following his bypass, the patient was mildly delirious, so his 
insulin pump was held. By POD#___nd POD#3 after 
his second bone debridement he appeared to be mentating at his 
baseline level.

# Type 1 Diabetes Mellitus
Last HbA1c 7.4% ___ ___. Complicated by neuropathy, 
retinopathy, and PVD. Uses an insulin pump. He continued his 
insulin pump with ___ Diabetes consult for co-management 
while inpatient. The pump was discontinued pre-operatively and 
restarted on POD#5 following his bypass, with Lantus and a 
Humalog sliding scale given while the pump was off. On 
restarting, however, throughout the day he was inappropriately 
dosing himself and had incorrectly attached his insulin pump. He 
was asymptomatic, however his blood glucose levels rose to the 
400s, he had (+) ketones ___ his urine his anion gap widened to 
24. Labs were rechecked periodically overnight and his gap had 
closed by morning with SC insulin only. ___ conjunction with 
___, the decision was made to maintain him on Lantus and a 
sliding scale for the time being, with plans to re-evaluate him 
as a pump candidate as an outpatient.

___
He was evaluated by physical therapy, who felt he would benefit 
from discharge to acute rehab.

Following surgery, he did well with no hemodynamic instability 
and no evidence of loss of patency of his graft. At the time of 
discharge, he was doing well, afebrile with stable vital signs. 
He was tolerating a regular diet, out of bed as tolerated with 
___, voiding without assistance, and his pain was well controlled 
on oral medications. He was deemed ready for discharge, and was 
given the appropriate discharge and follow-up instructions. Mr. 
___ was discharged to rehab on ___ ___ good condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Target glucose: 80-180
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. Valsartan 80 mg PO DAILY 
4. ClonazePAM 0.5 mg PO QAM 
5. ClonazePAM 1 mg PO QHS 
6. Gabapentin 300 mg PO QHS 
7. Vitamin D 1000 UNIT PO DAILY 
8. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*80 Tablet Refills:*0
2. ClonazePAM 0.5 mg PO QAM 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth QAM Disp #*20 Tablet 
Refills:*0
3. Gabapentin 300 mg PO QHS 
4. Glargine 21 Units Dinner
novolog 7 Units Breakfast
novolog 7 Units Lunch
novolog 7 Units Dinner
Insulin SC Sliding Scale using novolog Insulin
RX *insulin glargine [Lantus] 100 unit/mL 21 units SC 21 Units 
before DINNER Disp #*1 Vial Refills:*1
RX *insulin aspart [Novolog] 100 unit/mL ___ units SC Up to 6 
Units QID per sliding scale; 7 Units before BREAKFAST, LUNCH, 
DINNER Disp #*1 Vial Refills:*1
5. Valsartan 80 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 
8. Acetaminophen 650 mg PO Q6H:PRN pain/headache 
9. Aspirin EC 81 mg PO DAILY 
10. Atorvastatin 20 mg PO DAILY 
11. Clopidogrel 75 mg PO DAILY 
12. Daptomycin 400 mg IV Q24H 
RX *daptomycin [Cubicin] 500 mg 400 mg IV q24h Disp #*40 Vial 
Refills:*0
13. Docusate Sodium 100 mg PO BID 
14. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0
15. Senna 8.6 mg PO BID:PRN constipation 
16. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0
17. ClonazePAM 1 mg PO QHS 
RX *clonazepam 1 mg 1 tablet(s) by mouth at bedtime Disp #*20 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Peripheral vascular disease, non-healing ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Vascular Surgery service after your 
angiogram and bypass. Your procedures went well without 
complications and you are recovering well. At this time, you are 
eating normally, able to use the restroom without difficulty and 
have been restarted on all of your home medications. You are now 
ready to continue your recovery at rehab, with the following 
instructions.

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks
• You should get up out of bed every day and gradually increase 
your activity each day
• Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs
• Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time
• You will probably lose your taste for food and lose some 
weight
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist ___ wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take aspirin as instructed
• Follow your discharge medication instructions

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• Unless you were told not to bear any weight on operative foot:
• You should get up every day, get dressed and walk
• You should gradually increase your activity
• You may up and down stairs, go outside and/or ride ___ a car
• Increase your activities as you can tolerate- do not do too 
much right away!
• No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit
• You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE at ___ FOR:
• Redness that extends away from your incision
• A sudden increase ___ pain that is not controlled with pain 
medication
• A sudden change ___ the ability to move or use your leg or the 
ability to feel your leg
• Temperature greater than 100.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 
Followup Instructions:
___